US09260460B2
To the solution of L-leucine (0.400 g, 3.049*10−3 mol) in 2M NaOH aq. (3.75 ml) cooled to 0° C., benzyl chloroformate (3.5374*10−3 mol, 0.52 ml) was added dropwise over 15 min. The mixture was stirred at RT for another 2 h, and then acidified with HCl conc. The aqueous layer was extracted with AcOEt (3×10 ml) and the combined organic layers were dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to give crude N-benzoxycarbonyl-L-leucine. (colourless oil) (76%).

reactant | L-leucine | 10−3 mol, 0.400 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | benzyl chloroformate | 10−3 mol, 0.52 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | Cl | ClH
solvent | NaOH | 2M, 3.75 ml | [OH-].[Na+]
product | N-benzoxycarbonyl-L-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
